US04871877
A strip of aluminum foil weighing 293 mg (11 mmol) was amalgamated by immersion in a solution of 2% mercuric chloride in water for 15 sec., washed with absolute ethanol followed by diethyl ether, cut into small pieces, and added to a solution of 315 mg (1.1 mmol) of 4,6-di-tert-butyl-2-hydroxy-2-trifluoromethyl-3,5-cyclohexadien-1-one in 25 mL of 10% water--90% tetrahydrofuran. The resulting mixture was heated at 60°-70° C. for 2 hours, allowed to cool to room temperature, and filtered. The filter cake was washed with diethyl ether. Concentration of the combined filtrates gave a residue which was poured into 10 mL of water. The aqueous mixture was extracted with three 10 mL portions of dichloromethane. Combination, drying, and concentration of the organic layers gave a residue which was purified by PTLC (one 2 mm silica gel plate eluted with petroleum ether), affording 218 mg (73% yield) of 2,4-di-tert-butyl-6-trifluoromethylphenol.

reactant | aluminum | [Al] | Al
reactant | 4,6-di-tert-butyl-2-hydroxy-2-trifluoromethyl-3,5-cyclohexadien-1-one | 1.1 mmol, 315 mg | C(C)(C)(C)C1=CC(C(C(=C1)C(C)(C)C)=O)(C(F)(F)F)O | C15H21F3O2
solvent | water | O | H2O
solvent | water | 25 mL | O | H2O
solvent | water | 10 mL | O | H2O
product | 2,4-di-tert-butyl-6-trifluoromethylphenol | 218 mg, 73% yield | C(C)(C)(C)C1=C(C(=CC(=C1)C(C)(C)C)C(F)(F)F)O | C15H21F3O
